datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([C:13]([H:23])([H:24])[H:25])[c:14]1[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]1[H:30])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:12]([C:11]([H:20])([H:21])[H:22])([C:13]([H:23])([H:24])[H:25])[c:14]1[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]1[H:30],59.4128
[C:0](=[C:1]([C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])[H:12])[H:11])[H:10],255.282576
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])([H:11])[H:19],46.136968
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])([H:9])[H:10].[S:17]=[C:18]([C:19]([S:20][H:24])([H:22])[H:23])[H:21]>>[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:11])[H:22])([H:8])([H:9])[H:10].[S:17]=[C:18]([C:19]([S:20][H:24])[H:23])[H:21],8.7864
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[S:13]=[C:14]([C:15]([S:16][H:20])([H:18])[H:19])[H:17]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:18])([H:4])([H:5])[H:6].[S:13]=[C:14]([C:15]([S:16][H:20])[H:19])[H:17],-11.2968
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([S:8][H:14])[C:9](=[S:10])[H:15])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7]([C:6]([H:11])([H:12])[H:13])([S:8][H:14])[C:9](=[S:10])[H:15],175.477
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[S:10]=[C:11]([C:12]([S:13][H:16])[H:15])[H:14]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:12]([C:11](=[S:10])[H:14])([S:13][H:16])[H:15],143.093
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22])([H:9])[H:10],38.3673
[C:0]([C:1]([C:2]([O:3][H:10])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5]>>[C:0]([C:1]([C:2]([O:3][H:10])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6],104.6
[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]([H:16])[c:5]2[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]([H:20])[c:10]12)([H:11])([H:12])[H:13].[O:21]>>[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]([H:16])[c:5]2[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]([H:20])[c:10]12)([H:12])[H:13].[H:11][O:21],10.64828
[C:0](#[C:1][C:2]([C:3]#[C:4][H:11])=[C:5]([C:6]#[C:7][H:12])[C:8](=[C:9]([H:14])[H:15])[H:13])[H:10].[H:16]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:11])([C:5]([C:6]#[C:7][H:12])[C:8](=[C:9]([H:14])[H:15])[H:13])[H:16])[H:10],10.9202
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[S:10][H:17])([H:11])([H:12])[H:13]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[S:10][H:17],33.8904
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]1([C:7]([H:16])([H:17])[H:18])[H:15])[H:8],70.6678
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([O:9])([H:10])([H:11])[H:12]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:9][C:8]([H:10])([H:11])[H:12],29.288
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([C:13]([H:20])([H:21])[H:22])[C:14](=[C:15]([H:24])[H:25])[H:23])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:16])[H:17])[H:18])([C:12]([C:13]([H:20])([H:21])[H:22])[C:14](=[C:15]([H:24])[H:25])[H:23])[H:19])[H:4],28.4094
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26])[H:9])[H:8],-5.4392
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([C:8]([S:9][H:15])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:13])[H:4].[C:7]([C:8]([S:9][H:15])[H:14])([H:10])([H:11])[H:12],50.208
